US04929741
A solution of 6 g (26 mmol) of methyl 4-hydroxy-4-(5-indanyl)-2-butynoate in 200 ml of methylene chloride was added dropwise at 0° to a suspension of 68 g (0.78 mol) of manganese dioxide in 200 ml of methylene chloride. The reaction mixture was stirred at 0° for 20 minutes, filtered over magnesium sulphate and concentrated. The residue was purified by flash chromatography on 500 g of silica gel (elution agent methylene chloride/ethyl acetate 9:1). There was obtained methyl 3-(5-indanylcarbonyl)propiolate as a yellow oil.

reactant | methyl 4-hydroxy-4-(5-indanyl)-2-butynoate | 26 mmol, 6 g | OC(C#CC(=O)OC)C=1C=C2CCCC2=CC1 | C14H14O3
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
catalyst | manganese dioxide | 0.78 mol, 68 g | [O-2].[O-2].[Mn+4]
product | methyl 3-(5-indanylcarbonyl)propiolate | C1CCC2=CC(=CC=C12)C(=O)C#CC(=O)OC | C14H12O3
